US08048862B2
Preparation of 4-isopropylthiazole-2-carbonyl chloride
Oxalyl chloride (5.71 g, 45 mmol., 3.0 eq) was added dropwise, at ambient temperature, to a solution of 4-isopropyl-thiazole-2-carboxylic acid (3.85 g, 22.5 mmol., 1.5 eq) in toluene (40 mL). Stirring was continued at ambient temperature until the bubbling stopped. The reaction mixture was then heated under reflux for a further 1 hour. LCMS analysis of an aliquot quenched with methanol revealed full conversion of the acid to the acid chloride. The reaction mixture was left to cool to ambient temperature and the solvent removed under vacuum. The crude material was used directly in the next step without further purification.

reactant | Oxalyl chloride | 45 mmol, 5.71 g, 3.0 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-isopropyl-thiazole-2-carboxylic acid | 22.5 mmol, 3.85 g, 1.5 eq | C(C)(C)C=1N=C(SC1)C(=O)O | C7H9NO2S
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-isopropylthiazole-2-carbonyl chloride | C(C)(C)C=1N=C(SC1)C(=O)Cl | C7H8ClNOS
